US05484801
5-(Ethoxycarbonyl)thiazole
A solution of 2-amino-5-(ethoxycarbonyl)thiazole (50 g, 0.29 mmol) in a mixture of DMF (83 mL) and THF (317 mL) was added dropwise over 87 minutes to a stirred 41° C. solution of isoamyl nitrite (59 mL, 0.44 mol) in DMF (130 mL). A maximum temperature of 60° C. was observed during the exothermic addition. After another 40 minutes the THF was removed under vacuum at 45° C. The concentrated DMF solution was cooled to 25° C. and diluted with toluene (420 mL) and water (440 mL). The toluene layer was extracted with 3×120 mL water, then dried with Na2SO4 (50 g) for 1 hour. After filtration the toluene layer was stripped on a rotary evaporate at 50° C. bath temperature, then on a vacuum pump at 21° C. The crude residue containing the title compound weighed 65.6 g. This material was used directly in the next step. A sample of similarly prepared material was purified by column chromatography to give a yellow oil. 1H NMR (CDCl3) δ8.95 (s, 1H), 8.51 (s, 1H), 4.39 (q, 2H), 1.40 (t, 3H). 13C NMR (CDCl3) δ161.0, 157.9, 148.6,129.8, 61.6, 14.1.

reactant | 2-amino-5-(ethoxycarbonyl)thiazole | 0.29 mmol, 50 g | NC=1SC(=CN1)C(=O)OCC | C6H8N2O2S
reactant | isoamyl nitrite | 0.44 mol, 59 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | DMF | 83 mL | CN(C)C=O | C3H7NO
solvent | THF | 317 mL | C1CCOC1 | C4H8O
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
product | 5-(Ethoxycarbonyl)thiazole | C(C)OC(=O)C1=CN=CS1 | C6H7NO2S
